US04255426
Following the procedure of Example 5, 1-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine was reacted with 3-(trifluoromethyl)benzyl chloride to form 1-(3-trifluoromethylbenzyl)-4-(2-hydroxy-3-n-hexadecyloxypropyl)piperazine, mp 133°-135° C.

reactant | 1-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine | OC(CN1CCNCC1)COCCCCCCCCCCCCCCCC | C23H48N2O2
reactant | 3-(trifluoromethyl)benzyl chloride | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
product | 1-(3-trifluoromethylbenzyl)-4-(2-hydroxy-3-n-hexadecyloxypropyl)piperazine | FC(C=1C=C(CN2CCN(CC2)CC(COCCCCCCCCCCCCCCCC)O)C=CC1)(F)F | C31H53F3N2O2
